US04935515
1,2,3,4,5,6-Hexahydro-4-phenyl-[1,3,6]triazocino[1,2-a]benzimidazole
A mixture of 2,3,4,5-tetrahydro-7-(methylthio)-3-phenyl-1H-[1,2,5]-triazepino[1,2-a][1,2,4]benzotriazine (0.5000 g), zinc dust (2.0 g), N,N-dimethylformamide (16 ml) and water (4 ml) was stirred magnetically and heated under reflux for 20 hours. The cooled mixture was filtered through Celite and the filter pad washed with N,N-dimethylformamide. The filtrate and washings were evaporated under oil pump vacuum to a syrup. The syrup was dissolved in dichloromethane and applied to the edges of 4 plates of Alox-100 uv254 (20×20 cm×1 mm). The plates were developed twice in dichloromethane and several times in chloroform. The major band was excised and the component eluted by stirring with methanol. The adsorbent was filtered and washed with methanol. The filtrate and washings were evaporated to a syrup. The syrup was extracted with dichloromethane and the solution was evaporated to a syrup which crystallized. The crystals were dissolved in dichloromethane and the solution was treated with charcoal and filtered through Celite. Evaporation gave a syrup which was crystallized from dichloromethane-heptane; wt. 0.127 g (30%), mp=155°-157°.

reactant | 2,3,4,5-tetrahydro-7-(methylthio)-3-phenyl-1H-[1,2,5]-triazepino[1,2-a][1,2,4]benzotriazine | 0.5000 g | CSC=1N2N(C3=C(N1)C=CC=C3)CCN(CC2)C2=CC=CC=C2 | C18H20N4S
reactant | N,N-dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
catalyst | zinc | 2.0 g | [Zn] | Zn
solvent | water | 4 ml | O | H2O
product | 1,2,3,4,5,6-Hexahydro-4-phenyl-[1,3,6]triazocino[1,2-a]benzimidazole | C1(=CC=CC=C1)N1CCNC2=NC3=C(N2CC1)C=CC=C3 | C17H18N4
